US05137909
Ethyl 2-(1-ethoxycarbonylmethylindol-2-yl)thio-2-phenylpropionate
Starting from ethyl 2-(1H-indol-2-yl)thio-2-phenylpropionate and ethyl bromoacetate, the title compound was obtained as a pale yellow oily matter (yield: 63 %) according to the method of Example 92.

reactant | ethyl 2-(1H-indol-2-yl)thio-2-phenylpropionate | N1C(=CC2=CC=CC=C12)SC(C(=O)OCC)(C)C1=CC=CC=C1 | C19H19NO2S
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
product | Ethyl 2-(1-ethoxycarbonylmethylindol-2-yl)thio-2-phenylpropionate | yield: 63 % | C(C)OC(=O)CN1C(=CC2=CC=CC=C12)SC(C(=O)OCC)(C)C1=CC=CC=C1 | C23H25NO4S
